US07572928B2
tert-Butyl-(4S)-4-(1-fluorohexadec-2-enyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate
tert-Butyl-(4S)-4-(1-fluoroprop-2-en-1-yl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate (0.036 g, 0.14 mmol) and 1-pentadecene (0.2 ml, 5 eq) were solubilised in anhydrous CH2Cl2 (2.5 ml) under an atmosphere of nitrogen, in a sealed tube. Grubbs 2nd Generation catalyst (0.006 g, 2 mol %) was added as a solid, and the reaction mixture was allowed to stir for 36 hours at 100° C., with the reaction monitored by t.l.c. (ether:hexane, 1:19). The reaction mixture was then cooled to room temperature and concentrated under reduced pressure. Purification by flash chromatography (ether:hexane, 1:19) afforded the product (0.062 g, quantitative yield) and a mixture of compounds of varying alkyl chain length. Tentative analysis of this compound describes a mixture of products. m/z: HRMS required for C26H48FNO3 mass is 441.3600, found 441.3618 as major compound, also found 413.3164, 427.3433, 455.3875 and 469.3886 as minor products; IR (film) νmax (cm−1) 2926, 1704, 1386; 1H NMR (CDCl3, 400 Mhz) δ=5.81 (m, 1H, H8), 5.51 (m, 1H, H7), 5.10 and 4.94 (2 m, H6erythreo, threo), 4.08 (m, 1H, H4), 3.94 (m, 2H, H5,5′), 2.04 (m, 2H, H9,9′), 1.48 (m, 15H, NCOOC(CH3)3 and —OC(CH3)2N—), 1.25 (br s, 22H, (CH2)11), 0.88 (t, J=7.0, 3H, CH3, H21); 13C-NMR (CDCl3, 100.6 MHz) δ=152.4 (—NCOO—), 136.9 (CH, C8), 125.2 (CH, C7), 94.4 (CH, C6), 93.9 (OC(CH3)2N), 80.4 (OC(CH3)3), 63.4 (CH, C4), 60.4 (CH2, C5), 31.6, 31.9, 29.7, 22.7, 21.0 (12C, CH2, (CH2)12), 28.4 (CH3, OC(CH3)3), 26.9 and 24.7 (CH3, —OC(CH3)2N—), 14.1 (CH3, (CH2)12CH3)); 19F-NMR (CDCl3, 400 MHz) δ=major compounds −183.0, −186.0, minor compounds −175.6, −177.7, −192.6, −194.6;

reactant | tert-Butyl-(4S)-4-(1-fluoroprop-2-en-1-yl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate | 0.14 mmol, 0.036 g | C(C)(C)(C)OC(=O)N1C(OC[C@H]1C(C=C)F)(C)C | C13H22FNO3
reactant | 1-pentadecene | 0.2 ml, 5 eq | C=CCCCCCCCCCCCCC | C15H30
reactant | ether | CCOCC | C4H10O
reactant | hexane | CCCCCC | C6H14
solvent | CH2Cl2 | 2.5 ml | C(Cl)Cl | CH2Cl2
catalyst | Grubbs 2nd Generation | 0.006 g | Cl[Ru]([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)(=CC4=CC=CC=C4)(Cl)=C5N(C6=C(C)C=C(C)C=C6C)CCN5C7=C(C)C=C(C)C=C7C
product | tert-Butyl-(4S)-4-(1-fluorohexadec-2-enyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate | 0.062 g, quantitative yield | C(C)(C)(C)OC(=O)N1C(OC[C@H]1C(C=CCCCCCCCCCCCCC)F)(C)C | C26H48FNO3
